US07723330B2
Step B: Preparation of N-(3-fluoro-4-(3-(2-(4-methylpiperazin-1-yl)ethyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide:
A stirred mixture of N-(4-(1-(4-methoxybenzyl)-3-(2-(4-methylpiperazin-1-yl)ethyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide (4 mg, 0.006 mmol) and TFA (0.5 mL) was heated to 70° C. for 18 hours. The mixture was concentrated in vacuo, using toluene (2×5 mL) to azeotrope residual TFA. The residue was partitioned between EtOAc (5 mL) and a 1:1 water/saturated aqueous NaHCO3 (5 mL) mixture. The phases were separated, and the aqueous phase was re-extracted with EtOAc (2×2 mL). The combined organic phases were concentrated in vacuo. The residue was loaded on to a preparative TLC plate, eluting with 10% MeOH (containing 7N NH3) in CHCl3. The product was further purified on a Waters SepPak silica gel column (2 g silica), eluting with DCM, 5% MeOH/DCM, then 5% MeOH (containing 7N NH3) in DCM to elute the product. The product was obtained as a waxy solid (1.2 mg, 34%). LCMS (ESI+): 93% purity, 220 nm, m/z 576 (M+1) detected; 1H NMR (400 MHz, MeOD-d3) δ 8.27 (d, J=6 Hz, 1H), 7.84 (m, 1H), 7.55 (m, 2H), 7.43 (m, 1H), 7.37 (t, J=9 Hz, 1H), 7.07 (t, J=9 Hz, 2H), 6.29 (d, J=6 Hz, 1H), 3.65 (m, 1H, overlaps MeOD), 3.57 (m, 1H), 2.94 (m, 2H), 2.64 (m, 8H), 2.37 (s, 3H), 1.64 (m, 4H).

reactant | N-(4-(1-(4-methoxybenzyl)-3-(2-(4-methylpiperazin-1-yl)ethyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 0.006 mmol, 4 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)N(C(=O)C3(CC3)C(=O)N)C3=CC=C(C=C3)F)F)CCN3CCN(CC3)C)C=C1 | C38H39F2N7O4
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(3-fluoro-4-(3-(2-(4-methylpiperazin-1-yl)ethyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 1.2 mg, 34% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)NN=C2CCN2CCN(CC2)C)N(C(=O)C2(CC2)C(=O)N)C2=CC=C(C=C2)F | C30H31F2N7O3
